US08138175B2
A) {3-[(S)-4-(tert-Butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propyl}-carbamic acid benzyl ester
To a solution of [3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-carbamic acid benzyl ester (examples 74/75A; 3.90 g, 12.2 mmol in N,N-dimethylformamide (50 mL) was added tert-butyl-dimethylchlorosilane (2.77 g, 18.3 mmol), imidazole (2.08 g, 30.6 mmol), and 4-(dimethylamino)pyridine (14 mg, 0.12 mmol) at RT. The reaction mixture was heated at 60° C. for 24 h, then partitioned between sat. aq. NaHCO3 solution and EtOAc. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; EtOAc/MeOH 19:1) afforded the title compound (4.34 g, 82%). Light yellow oil, MS: 433.4 (M+H)+.

reactant | [3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCCN1C[C@H](C2(CC2)CC1)O)=O | C18H26N2O3
reactant | tert-butyl-dimethylchlorosilane | 18.3 mmol, 2.77 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 30.6 mmol, 2.08 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 0.12 mmol, 14 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | {3-[(S)-4-(tert-Butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propyl}-carbamic acid benzyl ester | 4.34 g, 82% | C(C1=CC=CC=C1)OC(NCCCN1C[C@H](C2(CC2)CC1)O[Si](C)(C)C(C)(C)C)=O | C24H40N2O3Si
